US20010027196A1
To a stirred solution of 2.37 g (9.67 mmol) 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile in 50 ml dry DMF under argon at room temperature were added 4.50 g (12.6 mmol) 2-tributylstannanyl-oxazole, 889 mg (0.97 mmol) tris(dibenzylidene-acetone)dipalladium(O), 1.48 g (4.84 mmol) triphenylarsine and 185 mg (0.97 mmol) copper(I) iodide. The reaction mixture was heated at 95° C. for 48 h, then cooled to room temperature and partitioned between ethyl acetate and water. The phases were separated and the organic phase dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate/hexane 1/1 followed by ethyl acetate) afforded 182 mg (7%) 2-amino-4-methylsulfanyl-6-oxazol-2-yl-pyrimidine-5-carbonitrile as a yellow crystalline solid. ES-MS m/e (%): 234 (M+H+, 100).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | 9.67 mmol, 2.37 g | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | 2-tributylstannanyl-oxazole | 12.6 mmol, 4.50 g | C(CCC)[Sn](C=1OC=CN1)(CCCC)CCCC
reactant | triphenylarsine | 4.84 mmol, 1.48 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylidene-acetone)dipalladium(O) | 0.97 mmol, 889 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | copper(I) iodide | 0.97 mmol, 185 mg | [Cu]I
product | 2-amino-4-methylsulfanyl-6-oxazol-2-yl-pyrimidine-5-carbonitrile | 182 mg, 7% | NC1=NC(=C(C(=N1)SC)C#N)C=1OC=CN1 | C9H7N5OS
